### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Clique): use `IsContained` instead of an explicit embedding from top

### PR DESCRIPTION
**Pull request by SnirBroshi**
This makes theorems require only a proof that a `Copy` exists rather than provide an explicit `Embedding`.

Also tag monotonicity lemmas with `@[gcongr]`, and add `Copy.isContained` / `Embedding.isIndContained` / `Embedding.isContained` / `Iso.isContained'`.

---
This isn't a generalization per-se since one could use choice plus `Copy.topEmbedding` to upgrade the `IsContained` to an embedding, but `IsContained` makes more sense in theorems.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -344,48 +344,45 @@ variable {G H} {s : Finset α}
...
+  exact Embedding.completeGraph <| Finset.equivFinOfCardEq h.choose_spec.card_eq |>.symm.toEmbedding
 
-theorem not_cliqueFree_iff (n : ℕ) : ¬G.CliqueFree n ↔ Nonempty (completeGraph (Fin n) ↪g G) :=
-  ⟨fun h ↦ ⟨topEmbeddingOfNotCliqueFree h⟩, fun ⟨f⟩ ↦ not_cliqueFree_of_top_embedding f⟩
+theorem not_cliqueFree_iff (n : ℕ) : ¬G.CliqueFree n ↔ (⊤ : SimpleGraph (Fin n)) ⊑ G :=
+  ⟨(⟨topEmbeddingOfNotCliqueFree · |>.toCopy⟩), IsContained.not_cliqueFree⟩
 
-theorem cliqueFree_iff {n : ℕ} : G.CliqueFree n ↔ IsEmpty (completeGraph (Fin n) ↪g G) := by
-  contrapose!; exact not_cliqueFree_iff n
+theorem cliqueFree_iff {n : ℕ} : G.CliqueFree n ↔ IsEmpty ((⊤ : SimpleGraph (Fin n)) ↪g G) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Why this change?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -478,12 +480,11 @@ protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n)
...
       rwa [← hx, e, hy, replaceVertex_self, not_cliqueFree_iff] at h
     · unfold replaceVertex at hφ
-      use φ.setValue x s
-      intro a b
+      refine ⟨Embedding.toCopy ⟨φ.setValue x s, fun {a b} ↦ ?_⟩⟩
       simp only [Embedding.coeFn_mk, Embedding.setValue, not_exists.mp ms, ite_false]
       rw [apply_ite (G.Adj · _), apply_ite (G.Adj _ ·), apply_ite (G.Adj _ ·)]
       convert @hφ a b <;> simp only [← φ.apply_eq_iff_eq, SimpleGraph.irrefl, hx]
-  · use φ
+  · refine ⟨Embedding.toCopy ⟨φ, ?_⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Are we missing `Embedding.isContained`?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: We should pick a spelling, either `⊤` or `completeGraph`, not both. Since these theorems use `topEmbeddingOfNotCliqueFree` which has "top" in the name and `⊤` in its type, I've aligned these as well.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Indeed, added `Copy.isContained` and `Embedding.isIndContained`.
Since the "shortcuts" `Iso.isContained`/`Iso.isIndContained`/`Iso.isIndContained'` already exist, I've also added `Embedding.isContained`/`Iso.isContained'`.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: `completeGraph` is an `abbrev` for `\top`, so there is no need to choose. Please revert this change and, if you feel strongly about it, come discuss it on Zulip (where previous discussion reached the current design almost unanimously)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -450,8 +452,8 @@ theorem not_cliqueFree_of_le_card [Fintype ι] (f : ∀ (i : ι), V i) (hc : n 
 
 theorem not_cliqueFree_of_infinite [Infinite ι] (f : ∀ (i : ι), V i) :
     ¬ (completeMultipartiteGraph V).CliqueFree n :=
-  fun hf ↦ not_cliqueFree_of_top_embedding (topEmbedding V f |>.comp
-            <| Embedding.completeGraph <| Fin.valEmbedding.trans <| Infinite.natEmbedding ι) hf
+  IsContained.not_cliqueFree ⟨Embedding.toCopy <| topEmbedding V f |>.comp <|
+    Embedding.completeGraph <| Fin.valEmbedding.trans <| Infinite.natEmbedding ι⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```
  (topEmbedding V f |>.comp <| .completeGraph <| Fin.valEmbedding.trans <| Infinite.natEmbedding ι).isContained.not_cliqueFree
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -478,12 +480,11 @@ protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n)
       simp_rw [hx, hy, adj_comm, not_adj_replaceVertex_same, top_adj, false_iff, not_ne_iff] at e
       rwa [← hx, e, hy, replaceVertex_self, not_cliqueFree_iff] at h
     · unfold replaceVertex at hφ
-      use φ.setValue x s
-      intro a b
+      refine ⟨Embedding.toCopy ⟨φ.setValue x s, fun {a b} ↦ ?_⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
      refine Embedding.isContained ⟨φ.setValue x s, fun {a b} ↦ ?_⟩
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -344,47 +344,44 @@ variable {G H} {s : Finset α}
...
+  rw [G.isClique_iff_induce_eq.mp h.choose_spec.isClique]
+  exact Embedding.completeGraph <| Finset.equivFinOfCardEq h.choose_spec.card_eq |>.symm.toEmbedding
+
+theorem not_cliqueFree_iff (n : ℕ) : ¬G.CliqueFree n ↔ completeGraph (Fin n) ⊑ G :=
+  ⟨(⟨topEmbeddingOfNotCliqueFree · |>.toCopy⟩), IsContained.not_cliqueFree⟩
 
 theorem cliqueFree_iff {n : ℕ} : G.CliqueFree n ↔ IsEmpty (completeGraph (Fin n) ↪g G) := by
-  contrapose!; exact not_cliqueFree_iff n
+  contrapose!
+  exact ⟨(⟨topEmbeddingOfNotCliqueFree ·⟩), (IsContained.not_cliqueFree ⟨·.some.toCopy⟩)⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
  exact ⟨(⟨topEmbeddingOfNotCliqueFree ·⟩), (·.some.isContained.not_cliqueFree)⟩
```
again

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -344,47 +344,44 @@ variable {G H} {s : Finset α}
 theorem IsNClique.not_cliqueFree (hG : G.IsNClique n s) : ¬G.CliqueFree n :=
   fun h ↦ h _ hG
 
-theorem not_cliqueFree_of_top_embedding {n : ℕ} (f : (⊤ : SimpleGraph (Fin n)) ↪g G) :
+theorem IsContained.not_cliqueFree {n : ℕ} (h : (⊤ : SimpleGraph (Fin n)) ⊑ G) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
theorem IsContained.not_cliqueFree {n : ℕ} (h : completeGraph (Fin n) ⊑ G) :
```
here and below, while you are at it

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Can you link to the unanimous design that you mentioned? I'm still confused as to when you're choosing either of them.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Looks like it wasn't as unanimous as I remembered: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/completeGraph.20vs.20.E2.8A.A4/with/517274699

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I changed it, but for the record I disagree with using `completeGraph`

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 7]
```diff
@@ -344,47 +344,46 @@ variable {G H} {s : Finset α}
...
-  convert (Embedding.induce ↑h.choose).comp this.toEmbedding
-  exact hb.symm
-
-theorem not_cliqueFree_iff (n : ℕ) : ¬G.CliqueFree n ↔ Nonempty (completeGraph (Fin n) ↪g G) :=
-  ⟨fun h ↦ ⟨topEmbeddingOfNotCliqueFree h⟩, fun ⟨f⟩ ↦ not_cliqueFree_of_top_embedding f⟩
-
-theorem cliqueFree_iff {n : ℕ} : G.CliqueFree n ↔ IsEmpty (completeGraph (Fin n) ↪g G) := by
-  contrapose!; exact not_cliqueFree_iff n
+noncomputable def completeGraphEmbeddingOfNotCliqueFree {n : ℕ} (h : ¬G.CliqueFree n) :
+    completeGraph (Fin n) ↪g G := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I don't see the point of renaming this
```suggestion
noncomputable def topEmbeddingOfNotCliqueFree {n : ℕ} (h : ¬G.CliqueFree n) :
    completeGraph (Fin n) ↪g G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -344,47 +344,46 @@ variable {G H} {s : Finset α}
...
+  unfold CliqueFree at h
+  push Not at h
+  apply Embedding.induce (h.choose : Set α) |>.comp
+  rw [G.isClique_iff_induce_eq.mp h.choose_spec.isClique]
+  exact Embedding.completeGraph <| Finset.equivFinOfCardEq h.choose_spec.card_eq |>.symm.toEmbedding
+
+@[deprecated (since := "2026-03-23")]
+alias topEmbeddingOfNotCliqueFree := completeGraphEmbeddingOfNotCliqueFree
+
+theorem not_cliqueFree_iff (n : ℕ) : ¬G.CliqueFree n ↔ completeGraph (Fin n) ⊑ G :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
theorem not_cliqueFree_iff_top_isContained (n : ℕ) : ¬G.CliqueFree n ↔ completeGraph (Fin n) ⊑ G :=
```
maybe?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: The convention can't be to use `completeGraph` but then to name things with "top". This doesn't align with Mathlib's conventions. If this remains "top", then I can revert the `completeGraph` change.
The same applies to the other comment.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Yet unfolding `abbrev`s that are there for discoverability when naming a lemma is the convention. See also `typeLT` vs `type_lt` for another example

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: `typeLT` is notation, not `abbrev`

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I know, I know, but this is an implementation detail

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: What about `WellFoundedLT` which is an `abbrev` for `WellFounded`?
Almost all [lemmas that reference it](https://loogle.lean-lang.org/?q=WellFoundedLT%2C+%22WellFounded%22) are named with `wellFoundedLT` and not `wellFounded_lt`.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
